*****************************************************************************
* (C) Copyright 2017 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer                                    
*****************************************************************************
* Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: AMC1301
* Precision isolation amplifier
* Date: 11/17/2017
* Model Type: Pspice
* Simulator: Pspice
* Simulator Version: 16
* Datasheet: SBAS667D APRIL 2016 REVISED JANUARY 2017
*
*****************************************************************************
* version 1.4:
* deleted unmatching subcircuit closing tag
*****************************************************************************
* AMC1301 SUBCIRCUIT
* Precision isolation amplifier 
** source AMC1301

.SUBCKT AMC1301 VOUTP VOUTN VDD1 VINP VINN GND2 GND1 VDD2
XU1         POut1_11 VOCM_2 NOut1_12 INP GND2 DFilter
XD10        13 GND1 D_ZR_5V3
XD9         14 GND1 D_ZR_5V3
XFilter     POut1_11 NOut1_12 GND2 VDD2 VOUTN VOCM_2 VOUTP Filter_Block
XD8         13 VINN D_D2
XD7         VINN VDD1 D_D2
XD6         14 VINP D_D2
XD5         VINP VDD1 D_D2
XD4         GND2 VOUTN D_D2
XD3         VOUTN VDD2 D_D2
XD2         GND2 VOUTP D_D2
XD1         VOUTP VDD2 D_D2
XGain       POut1_15 NOut1_17 VDD1 GND1 VDD2 GND2 INP GND2 FSO VGAIN
R3          GND2 GND1 100G 
C1          GND2 GND1  1.2P  
RIO         VDD2 VDD1 100G 
CIO         VDD2 VDD1  1.2P  
XInput      VINP VINN GND2 POut1_15 FSO VDD1 GND1 NOut1_17 Input_circuit

.ENDS

.SUBCKT DFilter POut1 VOCM NOut1 INP GND2
R29         18 GND2 1 
GVCCS7      18 GND2 19 GND2  -1
R28         20 GND2 1 
GVCCS6      20 GND2 21 GND2  -1
R27         22 GND2 1 
GVCCS5      22 GND2 23 GND2  -1
R26         24 GND2 1 
GVCCS4      24 GND2 25 GND2  -1
R25         26 GND2 1 
GVCCS3      26 GND2 27 GND2  -1
GVCCS2      NOut1 VOCM VALUE = {IF(TIME<1N,V(28,GND2),0.5*V(INP,GND2))}
R24         28 18 100K 
R23         20 28 100K 
GVCCS1      VOCM POut1 VALUE = {IF(TIME<1N,V(28,GND2),0.5*V(INP,GND2))}
R22         VOCM NOut1 1 
R21         POut1 VOCM 1 
C15         21 29  342.857143F  
R20         29 20 100K 
R19         GND2 21 200K 
C16         29 INP  342.857143F  
R18         30 22 200K 
C14         19 GND2  600F  
C13         18 30  16.3P  
R17         19 30 200K 
R12         31 24 200K 
C12         23 GND2  1.8P  
C11         22 31  5.7P  
R9          23 31 200K 
R8          32 26 200K 
C10         25 GND2  2.6P  
C9          24 32  3.8P  
R7          25 32 200K 
R6          33 INP 200K 
C6          27 GND2  3.1P  
C4          26 33  3.2P  
R5          27 33 200K 
.ENDS

.SUBCKT Filter_Block  INP INN GND2 VDD2 VOUTN VOCM VOUTP
VPSref      57 GND2 5
R21ops      43 0 999 
L2ops       43 0  7.949789U 
XOutputp VM_37 Neg_44 IGND_41 Bias IAVDD_42 VOUTP VDD2 Plus_45 GND2 Vt0p Vt0 
+ Output  
C7          46 47  3.64P IC=0
EVCVS2      46 GND2 49 GND2  1
EVCVS1      48 GND2 50 GND2  1
R16         51 INP 200K 
C8          50 49  1.493333P 
R15         47 INN 200K 
R14         49 47 200K 
C5          48 51  3.64P IC=0
R11         50 51 200K 
XOutputn VM_37 Neg_52 IGND_41 Bias IAVDD_42 VOUTN VDD2 Plus_53 GND2 Vt0p Vt0 
+ Output_1 
R8          54 48 200K 
Epsp        VOCM Plus_45 Veps_36 0  -1
Epsn        Plus_53 VOCM Veps_36 0  -1
R2ops       Veps_36 43 1 
R11ops      55 0 1 
L1ops       55 0  795.774715U IC=0
R1ops       56 55 1 
G2ops       0 Veps_36 56 0  1
G1ops       0 56 57 VDD2  19.952511U
C3          54 58  4.76P IC=0
R7          58 46 200K 
C4          VOUTP Neg_44  1.026667P 
R6          Neg_44 58 100K 
R5          VOUTP 58 200K 
C2          VOUTN Neg_52  1.026667P 
R3          Neg_52 54 100K 
R2          VOUTN 54 200K 
XBias       IAVDD_42 VDD2 IGND_41 GND2 Bias VM_37 Vt0p Vt0 VOCM Bias 
.ENDS


.SUBCKT Output VM Neg IGND Bias IAVDD OUT VDD2 Plus GND2 Vt0p Vt0
VAM2        62 VGN_60 ; Current Arrow
VAM1        65 OUT ; Current Arrow
Vo21        IAVDD 68 695.218247M
Vo22        63 IGND 695.218247M
XD5         VGP_59 VDD2 D_LIM1005
XD3         GND2 VGN_60 D_LIM1005
XD6         61 VGP_59 D_LIM1005
XD1         63 VV_58 D_LIM1
XD4         VGN_60 64 D_LIM1005
RO2         VDD2 66 10 
RO1         67 GND2 10 
XD2         VV_58 68 D_LIM1
C33         VV_58 VM  15.915494F  
XT7         65 VGP_59 66 VDD2 Q_PMOS_OUT_L1
+ PARAMS: M=25 W=20U L=0.8U
XT2         OUT VGN_60 67 GND2 Q_NMOS_OUT_L1
+ PARAMS: M=25 W=20U L=0.8U
EVMP2       VDD2 61 VALUE = {LIMIT(1.02*V(VDD2,Vt0p),0,V(VDD2,GND2))}
EVMN2       64 GND2 VALUE = {LIMIT(1.02*V(Vt0,GND2),0,V(VDD2,GND2))}
Ro23        VM Neg 100G 
Ro22        Plus VM 100G 
Ro21        Neg Plus 1G 
Co21        Neg Plus  10F  
Rdn2        VGP_59 Vt0p 2.041402MEG 
Gdn2        Vt0p VGP_59 VM VV_58  146.95U
Rdn1        62 Vt0 2.041402MEG 
Gdn1        Vt0 62 VM VV_58  146.95U
Cf5         OUT 62  1P  
Cf4         VGP_59 OUT  1P  
Co23        VM Neg  10F  
RCo23_RPAR  VM Neg 1T
Co22        Plus VM  10F  
RCo22_RPAR  Plus VM 1T
R83         VV_58 VM 100K 
G23         VM VV_58 Plus Neg  10U
.ENDS

.SUBCKT Output_1 VM Neg IGND Bias IAVDD OUT VDD2 Plus GND2 Vt0p Vt0
VAM2        74 VGN_72 ; Current Arrow
VAM1        77 OUT ; Current Arrow
Vo21        IAVDD 80 695.218247M
Vo22        75 IGND 695.218247M
XD5         VGP_71 VDD2 D_LIM1005
XD3         GND2 VGN_72 D_LIM1005
XD6         73 VGP_71 D_LIM1005
XD1         75 VV_70 D_LIM1
XD4         VGN_72 76 D_LIM1005
RO2         VDD2 78 10 
RO1         79 GND2 10 
XD2         VV_70 80 D_LIM1
C33         VV_70 VM  15.915494F  
XT7         77 VGP_71 78 VDD2 Q_PMOS_OUT_L1
+ PARAMS: M=25 W=20U L=0.8U
XT2         OUT VGN_72 79 GND2 Q_NMOS_OUT_L1
+ PARAMS: M=25 W=20U L=0.8U
EVMP2       VDD2 73 VALUE = {LIMIT(1.02*V(VDD2,Vt0p),0,V(VDD2,GND2))}
EVMN2       76 GND2 VALUE = {LIMIT(1.02*V(Vt0,GND2),0,V(VDD2,GND2))}
Ro23        VM Neg 100G 
Ro22        Plus VM 100G 
Ro21        Neg Plus 1G 
Co21        Neg Plus  10F  
Rdn2        VGP_71 Vt0p 2.041402MEG 
Gdn2        Vt0p VGP_71 VM VV_70  146.95U
Rdn1        74 Vt0 2.041402MEG 
Gdn1        Vt0 74 VM VV_70  146.95U
Cf5         OUT 74  1P  
Cf4         VGP_71 OUT  1P  
Co23        VM Neg  10F  
RCo23_RPAR  VM Neg 1T
Co22        Plus VM  10F  
RCo22_RPAR  Plus VM 1T
R83         VV_70 VM 100K 
G23         VM VV_70 Plus Neg  10U
.ENDS

.SUBCKT Bias IAVDD VDD2 IGND GND2 Bias VM Vt0p Vt0 VOCM
VS2         83 84 1.2
XU5         0 Vocmtemp VOCMTEMP
EVSOCM      VOCM GND2 VALUE = {LIMIT(V(Vt0,GND2)*2,0,(1.4445-1.3636M*V(VDD2,GND2))*V(Vocmtemp,0))}
GIb2        IGND Bias VALUE = {48.98M*V(VDD2,GND2)+730.612M}
Rb3         Bias IGND 1 TC=1.87M,-3.77U
R3          84 GND2 10MEG 
R2          VDD2 85 10MEG 
EVCVS1      VM IGND VALUE = {0.5*V(IAVDD,IGND)}
EAVDD       IAVDD IGND VALUE = {5*V(Bias,IGND)}
EGND        IGND 0 GND2 0  1
EBMG        86 GND2 Vt0 GND2 1
XT4         85 85 VDD2 VDD2 Q_PMOS_OUT_L1_1
+ PARAMS: M=1 W=10U L=4U 
XT1         VT1 86 GND2 GND2 Q_NMOS_OUT_L1_1
+ PARAMS: M=32 W=21U L=0.8U
XT3         84 84 GND2 GND2 Q_NMOS_OUT_L1_2
+ PARAMS: M=1 W=10U L=4U 
XD2         83 85 D_LIM1_1
Rsp1        VDD2 VT1 704.989154G 
GIb1        85 84 Bias IGND  10U
Rpsrr1      85 84 10MEG 
EVMP1       Vt0p VDD2 85 VDD2  1
EVMN1       Vt0 GND2 84 GND2  1
.ENDS

.SUBCKT Input_circuit VINP VINN GND2 POut1 FSO VDD1 GND1 NOut1
VCMref      CMref GND1 667M
VPSref      112 GND1 5
Rint21      95 Neg_96 7.333K 
Rint11      97 Plus_98 7.333K 
Cin1        97 95  10.8P  
GVCCS1      IGND_88 FSO VALUE = {IF(V(VM_90,IGND_88)<1.95|V(99,IGND_88)<0.5,1,0)}
R11         FSO IGND_88 1 
XU2         VDD1 VICM 99 IGND_88 HYSTCOMPGD
+ PARAMS: VTHRES=2 VHYST=10M VOUTH=1 VOUTL=0 ROUT=100 DELAY=1N 
Eios        100 97 VALUE = {V(Vecm,0)+V(Venoise,0)+50.1187N*V(GND1,GND2)+V(VOS,0)+V(Veps_91,0)}
L3          101 0  3.248354U  
R10         101 0 999 
R9          Venoise 101 1 
Gnoise      0 Venoise 0 102  233.333333M
L2          103 0  6.366198U  
R8          103 0 4 
R7          Veps_91 103 1 
G88ps       0 Veps_91 0 104  1
Rfb1        97 NOut1 22K TC=21.6667U
Rfb2        95 105 22K TC=21.6667U
Rint1       VINP 100 11K TC=21.6667U
Rint2       VINN 95 11K TC=21.6667U
Eps         105 POut1 POLY(1) Veps_91 0 0 1N 
R6          107 0 600M 
L1          107 0  596.831037U  
R5          104 107 1 
C2          108 0  294.7314U  
R4          108 0 9 
R3          109 108 1 
R210        110 0 400M 
L4          110 0  454.728409N  
R20         Vecm 110 1 
G88         0 109 0 Vecm  1
G8ps        0 104 112 VDD1  19.952623U
G8          0 Vecm CMref VLCM  33.496544U
XU5         0 VOS VOST
R2          VICM VINN 1G 
R1          VINP VICM 1G 
Enoise      POut 105 POLY(1) Venoise 0 0 5 
Rnoise2     102 0 4.8263MEG 
Rnoise1     102 0 4.8263MEG 
XBias       GND1 IGND_88 IAVDD_94 VM_90 VDD1 Bias_1
C37         VINN GND1  1P  
C38         VINP GND1  1P  
Cfb2        Neg_96 POut  5P  
Cfb1        Plus_98 NOut1  5P  
XInput1 VM_90 Neg_96 IGND_88 VLCM IAVDD_94 NOut1 VDD1 POut Plus_98 GND1 VICM 
+ Input1 
.ENDS

.SUBCKT Bias_1 GND1 IGND IAVDD VM VDD1
IS1         114 GND1 4.8144M
EVSVM       VM IGND IAVDD IGND  400M
EAVDD       IAVDD IGND VALUE = {LIMIT(5*(V(VDD1,GND1)-2),5,0)}
Rs4         114 GND1 1.785714K TC=-6M,20U
XD1         GND1 114 D_D4
XDZb1       114 VDD1 D_ZB1
EGND        IGND 0 GND1 0  1
.ENDS

.SUBCKT Input1 VM Neg IGND VLCM IAVDD NOut VDD1 POut Plus GND1 VICM
VIvcvs3     120 118 ; Current Arrow
VIvs1       116 121 ; Current Arrow
VS1         121 IGND -245.300882M
VdrophO1    IAVDD 124 915.387691M
VdroplO1    123 IGND 915.387691M
XD6         116 117 D_LIMCM
XD5         117 118 D_LIMCM
XD3         116 119 D_LIMCM
GVCCS1      IGND 119 VALUE = {1U*(V(Plus,IGND)-V(119,IGND))}
GVCCS2      IGND 117 VALUE = {1U*(V(Neg,IGND)-V(117,IGND))}
EVCVS3      120 IGND VALUE = {245.3009M+(V(VDD1,GND1))*666.6667M}
R2          117 IGND 1T 
XD2         119 118 D_LIMCM
R1          119 IGND 1T 
EVCVS2      MCM 0 VALUE = {1-1*LIMIT(3E6*(-I(VS1)+I(EVCVS3)),0,1)}
Ro110       VLCM Neg 1G 
Ro11        VLCM Plus 1G 
Go13        VM VB VALUE = {50M*V(119,117)*V(MCM,0)}
RGo13       0 0 50M 
XD1         123 VB D_LIM1T
XD4         VB 124 D_LIM1T
Ro15        VM Neg 100G 
Ro12        Plus VM 100G 
Co11        Neg Plus  10F  
Co13        IGND Neg  10F  
Co12        Plus IGND  10F  
Ro13        NOut VM 1 
Go11        VM NOut VM VB  1
Ro14        POut VM 1 
Go12        VM POut VB VM  1
Co19        VB VM  79.577472P  
RCo19_RPAR  VB VM 1T
Ro19        VB VM 10MEG 
.ENDS

.SUBCKT D_ZR_5V3 1    2
D1 1 2  D_Z5V3
.MODEL D_Z5V3 D( IS=1P N=1.0 BV=5.3 IBV=1.0M RS=10 XTI=0 EG=0.48 )
.ENDS 

.SUBCKT D_D2 1    2
D1 1 2  D2
.ENDS

.SUBCKT VGAIN INP INN VDD1 GND1 VDD2 GND2 OUTP OUTN FSO
.PARAM TCGERR= {-15E-6}
.PARAM EG= {-50E-3/100}
.PARAM Gin={2.0}
.PARAM Gout={1.0/1.0}
.PARAM G={8.2} ;AMC1301
.PARAM RG1= {1/Gin}
.PARAM RG2= {1}
.PARAM I0 = 1
.PARAM R0 = {1/(I0*Gout)}
.PARAM Rout = {R0*(1 + 2*TCGERR + 0u)}
.PARAM TC1= {TCGERR/R0/I0}
.PARAM C25={56.0014427}
.PARAM B25={0.146489}
.PARAM C125={47.45704}
.PARAM B125={0.17289}

.PARAM MC={0}
.PARAM C0={C25 - MC}
.PARAM MB={0}
.PARAM B0={B25 - MB}

.PARAM A0={-0.010854}
.PARAM D0={0.088938}

.PARAM Vclip={302.7m}
.PARAM VL={Vclip*Gin}
.PARAM VLFSO={-2.563/R0 - 1m}

GVDD1 0 G1 TABLE {V(VDD1,GND1)} = (3.00035 0.999325926) (3.5948 0.999240559) (4.50381 0.999394095) (5.50021 0.999602407)
RG1 G1 0 {RG1}
GVDD2 0 G12 TABLE {V(VDD2,GND1)} = (3.00026 0.999503704) (5.00641 0.999441518) (5.50466 0.99944447)
RG12 G12 0 1.0
G2 0 G2 VALUE = { V(G1)*V(G12)*Limit(V(INP,INN), -VL, VL) }
RG2 G2 0 {RG2}
G1 OUTN OUTP  VALUE = {IF ( V(FSO,GND1) < 0.5, ((C0 + MC*V(Temp))*TANH( (B0 + MB*V(Temp))*(V(G2) + A0) ) + D0), 
+ VLFSO) }
ROUT OUTP OUTN  RMOD2 {Rout}
.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)

Itemp 0 Temp 1
RTemp Temp 0 RTemp 1
.MODEL RTemp RES (TC1={1} TC2=0 TCE=0)
.ENDS

.SUBCKT D_LIM1005 1 2
D1 1 2  D_Lim1005_M
.ENDS

.SUBCKT D_LIM1 1 2
D1 1 2  D_Lim1_M
.ENDS

.SUBCKT Q_PMOS_OUT_L1 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_PMOS_Out_L1_M W = {W} L = {L} M = {M} 
.ENDS

.SUBCKT Q_NMOS_OUT_L1 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_Out_L1_M  W = {W} L = {L} M = {M} 
.ENDS

.SUBCKT VOCMTEMP 1 2
.PARAM R0 = {1/1.44}
GVocmtemp 1 2 table {TEMP} = (-40.2880,1.43593, -10.0524,1.43840, 5.20942,1.43938, 35.1571,1.44012, 
+ 64.8168,1.44062, 79.7906,1.44086, 95.0524,1.44062, 110.026,1.44012, 125,1.43963)
Rout 1 2 {R0}
.ENDS

.SUBCKT Q_PMOS_OUT_L1_1 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_PMOS_Out_L1_M W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS

.SUBCKT Q_NMOS_OUT_L1_1 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_Out_L1_M  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS

.SUBCKT Q_NMOS_OUT_L1_2 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_Out_L1_M  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS} 
+ NRD={LS/W} NRS={LS/W}
.ENDS

.SUBCKT D_LIM1_1 1 2
D1 1 2  D_Lim1_M
.ENDS

.SUBCKT HYSTCOMPGD inp inm out gnd 
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Delay=1N
.PARAM MinADel = {1n}
.PARAM Tdel = {MAX(Delay,MinADel)}
.Param Rdel = {IF ( (Tdel > 1E-15) & (Rout < 1), 1, Rout ) }
.Param VoutM={(VoutH+VoutL)/2}
.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}
.Param Cout={Tdel/(0.693*(Rdel+1u))}
.Param Gdlh={1/Rdel}
.Param Gdhl={1*Gdlh}
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1
Gout gnd out Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(out,gnd))*Gdlh, (VoutL - V(out,gnd))*Gdhl ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Rdel}
.ENDS

.SUBCKT VOST 1 2
.PARAM I0 = 1M
.PARAM DVOS_DT= {-1.0U}

.PARAM VOFFS = {54.0U + 2*DVOS_DT}
.PARAM R0 = {VOFFS/I0}
.PARAM TC1= {DVOS_DT/R0/I0}

R2 40 0 RMOD2 {R0}
I2 40 0 {I0}
E3 1 2 40 0 1
.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)
.ENDS

.SUBCKT D_D4 1    2
D1 1 2  DD
.MODEL DD D( IS=10n N=0.50 RS=1 XTI=0 Eg=0.55)
.ENDS

.SUBCKT D_ZB1 1    2
D1 1 2  D_4_9V
CD 1 2 10P
.MODEL D_4_9V D( IS=1n N=1.0 BV=2.9 IBV=1.0m RS=0 XTI=0)
.ENDS 

.SUBCKT D_LIMCM 1 2
D1 1 2  D_Limcm
.MODEL D_LIMcm D( IS=1p N=1.0 RS=100 XTI=0 AF=0 KF=0 EG=1.1)
.ENDS

.SUBCKT D_LIM1T 1 2
D1 1 2  D_LIM1T_M
.ENDS
.MODEL D_LIM1T_M D( IS=10F N=1.0 RS=10 XTI=0 AF=0 KF=0 EG=0.555)

.PARAM LS = 1.0U
.PARAM VTOHP = 0.75
.PARAM VTOHN = 0.75

.PARAM LAMBDA = 10M

.PARAM GAMMA = 0.00
.PARAM KAPPA = 1.0
.PARAM THETA = 0.23
.PARAM ETA = 3

.PARAM KPN = {UON*COX * 1e-4}
.PARAM KPP = {UOP*COX * 1e-4}
.PARAM LDN = 0.09U
.PARAM LDP = 0.09U
.PARAM RSW = 1810
.PARAM RSN = 1.41
.PARAM RDS = 10MEG
.PARAM VBMUL = 1E6
.PARAM RPAR = 1T
.PARAM CBDJ = 1.0 
.PARAM CBDS = 1.0
.PARAM CGBF = 1.0
.PARAM PBP = 0.7
.PARAM PBN = 0.7
.PARAM UON = 450
.PARAM UOP = 450
.PARAM CJN = {200U}
.PARAM CJP = {400U} 
.PARAM CJSWN = {1.2N}
.PARAM CJSWP = {2.4N}
.PARAM XJN = 0.15U
.PARAM CGSON = {0.6*XJN*COX} 
.PARAM CGDON = {CGSON}
.PARAM CGBON = {CGBF*CGDON}
.PARAM XJP = 0.18U
.PARAM CGSOP = {0.6*XJP*COX} 
.PARAM CGDOP = {CGSOP}
.PARAM CGBOP = {CGBF*CGDOP}
.PARAM EPSSIO2 = {3.9*8.854214871E-12}
.PARAM TOX = 80E-10
.PARAM COX = {EPSSIO2/TOX}
.MODEL Q_NMOS NMOS Level=1 L=2U W=10U KP={KPN} VTO={VTOHN}  AF=0 KF=0
.MODEL Q_PMOS PMOS Level=1 L=2U W=10U KP={KPP} VTO={-VTOHP}  AF=0 KF=0
.MODEL Q_NMOS_Out_L1_M NMOS LEVEL=1 L=10U W=100U KP={KPN} VTO={VTOHN} LAMBDA={LAMBDA}
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH= 4 PB={PBN} LD= {LDN} RDS={RDS} 
.MODEL Q_NMOS_Out NMOS LEVEL=3 L=10U W=100U KP={KPN} VTO={VTOHN} THETA={THETA}
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH= 4 PB={PBN} LD= {LDN} RDS={RDS} TOX={TOX} XJ={XJN}
+ GAMMA={GAMMA} KAPPA={KAPPA} ETA={ETA}
.MODEL Q_PMOS_Out_L1_M PMOS LEVEL=1 L=10U W=100U KP={KPP} VTO={-VTOHP} LAMBDA={LAMBDA}
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH=4 PB={PBP} LD= {LDP} RDS={RDS} 
.MODEL Q_PMOS_Out PMOS LEVEL=3 L=10U W=100U KP={KPP} VTO={-VTOHP} THETA={THETA}
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH=4 PB={PBP} LD= {LDP} RDS={RDS} TOX={TOX} XJ={XJP}
+ GAMMA={GAMMA} KAPPA={KAPPA} ETA={ETA}
.MODEL D_Lim1_M D( IS=10F N=1.0 RS=1000 XTI=0 AF=0 KF=0 EG=1.11)
.MODEL D_Lim100 D( IS=10F N=1.0 RS=100 XTI=0 AF=0 KF=0 EG=1.11)
.MODEL D_Lim1005_M D( IS=10F N=0.5 RS=100 XTI=0 AF=0 KF=0 EG=0.555)
.MODEL D_Lim10 D( IS=10F N=1.0 RS=10 XTI=0 AF=0 KF=0 EG=1.11)
.MODEL D_Lim2 D( IS=10f N=0.5 RS=1 XTI=0 AF=0 KF=0 EG=0.555 )
.MODEL D_Lim3 D( IS=1E-18 N=1.0 RS=1 XTI=0 AF=0 KF=0)
.MODEL D_Lim4 D( IS=10F N=1.0 RS=1m XTI=0 AF=0 KF=0)
.MODEL D1 D( IS=1p N=1.0 RS=0 XTI=3 AF=0 KF=0 )
.MODEL DZ_14V D( IS=1p N=1.0 BV=14.0 IBV=5.0M XTI=0 RS=10)
.MODEL DZ_80V D( IS=1p N=1.0 BV=80.0 IBV=5.0M XTI=0 RS=10)
.MODEL D2 D( IS=1p N=1.0 XTI=0 RS=10)

